US07157487B2
To methyl (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate (889 mg, 2.63 mmol) were added THF (25 ml) and 0.25N NaOH (15.8 ml, 3.95 mmol). The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was poured in 1N HCl (30 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetic acid (741 mg, 87%) as a brown solid.

reactant | methyl (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate | 2.63 mmol, 889 mg | FC1=CC=C2C(=CN(C2=C1)C)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H15FN2O3
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | NaOH | 3.95 mmol, 0.25N, 15.8 ml | [OH-].[Na+]
solvent | HCl | 1N, 30 ml | Cl | ClH
product | (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetic acid | 741 mg, 87% | FC1=CC=C2C(=CN(C2=C1)C)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C18H13FN2O3
